US07691882B2
6-Phenoxy-pyridine-3-carbaldehyde
To a solution of 5-bromo-2-phenoxy-pyridine (3.85 g, 15.4 mmol) described in Manufacturing Example 40-1-1 in tetrahydrofuran (60 mL) was added n-butyl lithium (10.6 mL, 1.60 M hexane solution, 16.9 mmol) under nitrogen atmosphere at −78° C., which was stirred for 35 minutes at −78° C. N,N-Dimethylformamide (1.55 mL, 20.0 mmol) was then added to this reaction solution at −78° C., which was stirred for further 10 minutes at room temperature. After allowing to room temperature, the reaction solution was partitioned into water and ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=5:1) to obtain the title compound (1.12 g, 37%).

reactant | 5-bromo-2-phenoxy-pyridine | 15.4 mmol, 3.85 g | BrC=1C=CC(=NC1)OC1=CC=CC=C1 | C11H8BrNO
reactant | n-butyl lithium | 16.9 mmol, 1.60 M, 10.6 mL | C(CCC)[Li]
reactant | N,N-Dimethylformamide | 20.0 mmol, 1.55 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 6-Phenoxy-pyridine-3-carbaldehyde | 1.12 g, 37% | O(C1=CC=CC=C1)C1=CC=C(C=N1)C=O | C12H9NO2
